US08278442B2
Preparation 48: 6-(5-{[Bis-(3-methylbutyl)amino]methyl}naphthalen-1-yloxy)-nicotinonitrile
Using the procedure outlined in Preparation 14 and Preparation 15, (5-methoxynaphthalen-1-ylmethyl)-bis-(3-methylbutyl)amine (Preparation 29) and 2-chloro-5-cyanopyridine were converted to the title compound: RT=2.93 min; m/z (ES+)=416.8 [M+H]+.

reactant | (5-methoxynaphthalen-1-ylmethyl)-bis-(3-methylbutyl)amine | COC1=C2C=CC=C(C2=CC=C1)CN(CCC(C)C)CCC(C)C | C22H33NO
reactant | 2-chloro-5-cyanopyridine | ClC1=NC=C(C=C1)C#N | C6H3ClN2
product | 6-(5-{[Bis-(3-methylbutyl)amino]methyl}naphthalen-1-yloxy)-nicotinonitrile | CC(CCN(CCC(C)C)CC1=C2C=CC=C(C2=CC=C1)OC1=NC=C(C#N)C=C1)C | C27H33N3O
